US09029536B2
B) Ethyl[2-(4-bromophenoxy)-1H-benzimidazol-1-yl]acetate
To a mixture of ethyl 2-(2-chloro-1H-benzo[d]imidazol-1-yl)acetate (11.0 g) and p-bromophenol (23.9 g) was added TEA (19.2 mL) at room temperature. After stirring overnight at 120° C., the reaction mixture was quenched with water and extracted with AcOEt. The organic layer was separated, washed with 1 M NaOH aqueous solution and brine, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (AcOEt/hexane) and recrystallized from AcOEt/hexane to give the title compound (11.0 g).

reactant | ethyl 2-(2-chloro-1H-benzo[d]imidazol-1-yl)acetate | 11.0 g | ClC1=NC2=C(N1CC(=O)OCC)C=CC=C2 | C11H11ClN2O2
reactant | p-bromophenol | 23.9 g | C1=CC(=CC=C1O)Br | C6H5BrO
product | Ethyl[2-(4-bromophenoxy)-1H-benzimidazol-1-yl]acetate | 11.0 g | C(C)OC(CN1C(=NC2=C1C=CC=C2)OC2=CC=C(C=C2)Br)=O | C17H15BrN2O3
